// Generated for: spectre
// Generated on: Jan 30 10:07:03 2024
// Design library name: lab2024
// Design cell name: tb_inv
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/eda/cadence/ams/4.10/spectre/c35/soac/soac.scs"
include "/eda/cadence/ams/4.10/spectre/c35/soac/processOption.scs"
include "/eda/cadence/ams/4.10/spectre/c35/soac/cmos53.scs" section=cmostm
include "/eda/cadence/ams/4.10/spectre/c35/soac/res.scs" section=restm
include "/eda/cadence/ams/4.10/spectre/c35/soac/cap.scs" section=captm
include "/eda/cadence/ams/4.10/spectre/c35/soac/bip.scs" section=biptm
include "/eda/cadence/ams/4.10/spectre/c35/soac/ind.scs" section=indtm
include "/eda/cadence/ams/4.10/spectre/c35/soac/esddiode.scs" section=esddiodetm

// Library name: lab2024
// Cell name: inv
// View name: schematic
subckt inv in out
    MN0 (out in 0 0) modn w=10u l=0.35u as=8.5e-12 ad=8.5e-12 ps=11.7u \
        pd=11.7u nrd=0.05 nrs=0.05 ng=1
    MP0 (out in vdd! vdd!) modp w=6u l=0.35u as=5.1e-12 ad=5.1e-12 ps=7.7u \
        pd=7.7u nrd=0.08333333 nrs=0.08333333 ng=1
ends inv
// End of subcircuit definition.

// Library name: lab2024
// Cell name: tb_inv
// View name: schematic
I0 (net2 net3) inv
V0 (vdd! 0) vsource dc=3.3 type=dc
C0 (net3 0) capacitor c=12f
V1 (net2 0) vsource type=pulse val0=0 val1=3.3 period=2n rise=100p \
        fall=100p width=1n
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf enable_pre_ver=yes ignorezerovar=yes 
tran tran stop=10n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
